US04346093
4-{2-Hydroxy-3-[2-(2-methoxyphenoxy)-propylamino]-propoxy}-7-methyl-2-benzimidazolinone hydrochloride
30.5 g. 2,3-Dinitro-1-(2,3-epoxypropoxy)-4-methylbenzene and 32.6 g. N-benzyl-2-(2-methoxyphenoxy)-propylamine are boiled under reflux for 3 hours in 500 ml. ethanol. The reaction mixture is then hydrogenated in the presence of 10 g. 10% palladium-charcoal in 1 liter ethanol at 50° C. and 30 bar. The catalyst is filtered off and the filtrate is acidified with 2 N hydrochloric acid, clarified with active charcoal and evaporated to dryness. There are obtained 59 g. 2,3-diamino-1-{2-hydroxy-3-[2-(2-methoxyphenoxy)-propylamino]-propoxy}-4-methylbenzene trihydrochloride.

reactant | 2,3-Dinitro-1-(2,3-epoxypropoxy)-4-methylbenzene | [N+](=O)([O-])C1=C(C=CC(=C1[N+](=O)[O-])C)OCC1CO1 | C10H10N2O6
reactant | N-benzyl-2-(2-methoxyphenoxy)-propylamine | C(C1=CC=CC=C1)NCC(C)OC1=C(C=CC=C1)OC | C17H21NO2
reactant | 2,3-diamino-1-{2-hydroxy-3-[2-(2-methoxyphenoxy)-propylamino]-propoxy}-4-methylbenzene trihydrochloride | Cl.Cl.Cl.NC1=C(C=CC(=C1N)C)OCC(CNCC(C)OC1=C(C=CC=C1)OC)O
solvent | ethanol | 1 liter | C(C)O | C2H6O
catalyst | palladium-charcoal | [Pd] | Pd
product | 4-{2-Hydroxy-3-[2-(2-methoxyphenoxy)-propylamino]-propoxy}-7-methyl-2-benzimidazolinone hydrochloride | Cl.OC(COC1=CC=C(C=2NC(NC21)=O)C)CNCC(C)OC2=C(C=CC=C2)OC | InChI=1S/C21H27N3O5.ClH/c1-13-8-9-18(20-19(13)23-21(26)24-20)28-12-15(25)11-22-10-14(2)29-17-7-5-4-6-16(17)27-3;/h4-9,14-15,22,25H,10-12H2,1-3H3,(H2,23,24,26);1H
